US08071592B2
(f) 1,1-Dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)carbamate
A mixture of [7-(methoxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]acetaldehyde (as the methyl hemiacetal) (530 mg, 2.431 mmol) and 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)-4-piperidinylcarbamate (for a synthesis see WO2004/058144 Example 99(h)) (848 mg, 2.431 mmol) in chloroform (20 ml) and MeOH (1 ml) was stirred for 2 h before addition of NaBH(OAc)3 (1.546 mg, 7.293 mmol). The reaction was stirred for 0.5 h before addition of sat. aq NaHCO3 (50 ml). The reaction was then extracted with 20% MeOH in DCM (3×200 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-20% MeOH/DCM gradient to provide the desired compound (833 mg, 62%).

reactant | [7-(methoxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]acetaldehyde | COC1=CN=C2C=CC(N(C2=C1)CC=O)=O | C11H10N2O3
reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)-4-piperidinylcarbamate | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C18H27N3O4
reactant | NaBH(OAc)3 | 7.293 mmol, 1.546 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 1 ml | CO | CH4O
product | 1,1-Dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)carbamate | 833 mg, 62% | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O | C29H37N5O6
